US08193228B2
3-[4-(2,2-dimethylpropyl)-5-ethyl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol
Pd (10 wt % on activated carbon) (ca. 1 mg, cat.) was added to a degassed solution of 3-[4-(2,2-dimethylpropyl)-5-vinyl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol (3 mg, 0.007 mmol) in methanol (1 mL). After stirring under an atmosphere of hydrogen for 1 h, the reaction mixture was filtered through celite rinsing with methanol. The filtrate was concentrated in vacuo to afford the title compound. 1H NMR (500 MHz, CD3OD) δ 8.53 (d, J=3.0 Hz, 1H), 7.99 (d, J=8.4 Hz, 2H), 7.90 (dd, J=4.3, 8.8 Hz, 1H), 7.72-7.60 (m, 4H), 3.63 (bs, 2H), 2.52 (1, J=7.6 Hz, 2H), 2.38 (AB, J=14.9 Hz, 2H), 1.10 (t, J=7.6 Hz, 3H), 0.76 (s, 9H).

reactant | 3-[4-(2,2-dimethylpropyl)-5-vinyl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | 0.007 mmol, 3 mg | CC(CC=1N=C(NC1C=C)CC(C(F)(F)F)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C24H25F4N3O
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd | ca. 1 mg | [Pd] | Pd
product | 3-[4-(2,2-dimethylpropyl)-5-ethyl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1CC)CC(C(F)(F)F)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C24H27F4N3O
